US08975254B2
(R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-pyrazol-4-yl)thiazole-4-carboxamide
1H-Pyrazole-4-carbothioic acid amide (300 mg, 2.359 mmol) and 3-bromo-2-oxopropanoic acid (433 mg, 2.60 mmol) were dissolved in dry THF under nitrogen atmosphere. The reaction mixture was heated at 60° C. for 3 h. The reaction mixture was cooled to RT and evaporated to dryness. (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (300 mg, 1.151 mmol) and DCM were added to the reaction flask and the title compound was prepared using the method of Example 34(d). The product was purified by Flash-chromatography and triturated using methanol. Yield 13.7%. 1H-NMR (400 MHz; DMSO): δ 1.17 (d, 3H), 4.31-4.54 (m, 3H), 6.96 (d, 1H), 7.84 (d, 1H), 7.87 (d, 1H), 7.94 (dd, 1H), 8.00 (bs, 1H), 8.06 (d, 1H), 8.08 (d, 1H), 8.38 (d, 1H), 8.40 (bs, 1H), 13.38 (s, 1H).

reactant | 1H-Pyrazole-4-carbothioic acid amide | 2.359 mmol, 300 mg | N1N=CC(=C1)C(N)=S | C4H5N3S
reactant | 3-bromo-2-oxopropanoic acid | 2.60 mmol, 433 mg | BrCC(C(=O)O)=O | C3H3BrO3
reactant | (R)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 1.151 mmol, 300 mg | N[C@@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
product | (R)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(1H-pyrazol-4-yl)thiazole-4-carboxamide | Yield 13.7% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@@H](C)NC(=O)C=1N=C(SC1)C=1C=NNC1 | C20H16ClN7OS
